US04496739
A mixture of cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylic acid (35.4 g), benzene (500 ml), n-propanol (45 ml) and conc. sulfuric acid (5.0 g) was refluxed for 14 hours, cooled, washed successively with water, 5% aqueous sodium hydroxide and water, and then concentrated under reduced pressure to give oily product of di-n-propyl cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylate (42.3 g). IR (neat, cm-1): 2970, 1750, 1710, 1445, 1420, 1360, 1210, 1055, 750, 700.

reactant | cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylic acid | 35.4 g | C(C1=CC=CC=C1)N1C(N([C@H]([C@H]1C(=O)O)C(=O)O)CC1=CC=CC=C1)=O | C19H18N2O5
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | 5.0 g | S(O)(O)(=O)=O | H2O4S
reactant | n-propanol | 45 ml | C(CC)O | C3H8O
product | di-n-propyl cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylate | 42.3 g | C(C1=CC=CC=C1)N1C(N([C@H]([C@H]1C(=O)OCCC)C(=O)OCCC)CC1=CC=CC=C1)=O | C25H30N2O5
